US07105544B2
1-(4-CHLOROPHENYL)-N-(3-{4-[3-(PROPIONYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE
Example 62 was prepared from 1-(4-chlorophenyl)cyclopentanecarboxylic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide according to the procedures described in Scheme 10: ESMS m/e: 496.4 (M+H)+.

reactant | 1-(4-chlorophenyl)cyclopentanecarboxylic acid | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)O | C12H13ClO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C17H27N3O
product | 1-(4-CHLOROPHENYL)-N-(3-{4-[3-(PROPIONYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)CYCLOPENTANECARBOXAMIDE | ClC1=CC=C(C=C1)C1(CCCC1)C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(CC)=O | C29H38ClN3O2
